Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Foamy urine, presented with elevated Cr from PCP's office
 
Major Surgical or Invasive Procedure:
___: Renal biopsy

 
History of Present Illness:
___ with history of lymphadenopathy was referred by her ___
primary care physician for acute renal failure. 

Patient reports first noticing "bubbles in my pee" for several
months before mentioning this to her PCP at ___ visit in ___. She
was then found to have proteinuria and over the next month and
was undergoing a workup for this. This week she had labs drawn
which exhibited a Cr of 6.32 (no prior baseline in ___). 

Patient reports worsening DOE for last ___ weeks, noting that 
she
gets SOB when climbing the ___ flights of stairs up to her
apartment. She also notes fatigue when walking an uphill portion
of her commute before getting on the T, which is a departure 
from
the norm for her. Denies fevers, CP, cough. Denies n/v/abd
pain/diarrhea. Denies leg swelling. Denies
dysuria/hematuria/change in UOP. She reports rash across legs a
few months ago that resolved.  Denies any new medications or
NSAID use. Denies history of IVDU. 

AT___ LABS 
___
- SPEP/UPEP in process
- 138  108  47
  --------------
  3.7  17   6.32   
- 16.5 > 8.3/25.5 < ___ 
UA: 2+ protein, 1+ glucose
Spot UPro/Cr: 1.29

24H urine: 
TOTAL PROTEIN QUANTITATIVE 24 HR (U) mg/dL  46 
TOTAL PROTEIN 24 HR (U) <150 mg/day         828 (H) 
PROTEIN/GRAM CREATININE (U) <200 mg/g creat 1220 (H) 
CREATININE (U) 20.0 - 320.0 mg/dL           37.7 
URINE VOLUME ___ mL                  1800 (H) 

___ - A1c 5

In the ED, initial VS were: 98.6 72 126/65 18 100% RA 

Exam notable for: Trace edema, well appearing, no HSM

Labs showed:

14.5 > 8.3/25.5 < ___       AGap=18 
------------< 101  
3.4  16  5.7  
Ca: 9.0 Mg: 2.5 P: 4.9
LFT wnl, lipase 67
Hapto pending

Urine lytes 
Na: 23
Creat 69
UA: trace blood, RBC 1, few bact, 30 protein

Imaging showed:
+ Renal U/S
Slightly increased cortical echogenicity compatible with medical
renal disease. Otherwise no solid renal mass, hydronephrosis, or
stone. 

Patient received: n/a

Renal was consulted and recommended admission for workup of her
renal failure. 

Transfer VS were: 98.5 69 118/63 18 100% RA

On arrival to the floor, patient endorses this history above and
otherwise has no acute complaints.

REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI 
 

 
Past Medical History:
Varicose veins
Lymphadenopathy 
 
Social History:
___
Family History:
No family history of kidney disease. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 97.4 117/73 60 18 99% RA   
GENERAL: Pleasant F in NAD, lying comfortably in bed during
interview  
HEENT: NCAT, MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, no m/r/g  
LUNGS: CTAB 
ABDOMEN: Soft, NT/ND, BS+
EXTREMITIES: WWP, no c/c/e
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:  
VS: 98.1PO 118 / 72 R Lying 65 17 95 RA     
GENERAL: Pleasant F in NAD, lying comfortably, conversational
HEENT: NCAT, MMM, PERRL, no icterus, poor dentition
NECK: supple, no LAD, no JVD  
HEART: RRR, no m/r/g  
LUNGS: CTAB , no crackles noted
ABDOMEN: Soft, NT/ND, BS+
EXTREMITIES: WWP, no c/c/e, not volume overloaded
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

 
Pertinent Results:
ADMISSION LABS:
___ 04:44PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:44PM URINE  RBC-1 WBC-0 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 04:44PM URINE  OSMOLAL-211
___ 04:44PM   WBC-14.5* RBC-2.72* HGB-8.3* HCT-25.5* MCV-94 
MCH-30.5 MCHC-32.5 RDW-14.2 RDWSD-48.4*
___ 04:44PM   NEUTS-57 BANDS-0 ___ MONOS-3* EOS-3 
BASOS-0 ___ MYELOS-0 AbsNeut-8.27* AbsLymp-5.37* 
AbsMono-0.44 AbsEos-0.44 AbsBaso-0.00*
___ 04:44PM   GLUCOSE-101* UREA N-41* CREAT-5.7* SODIUM-143 
POTASSIUM-3.4 CHLORIDE-109* TOTAL CO2-16* ANION GAP-18*
___ 04:44PM   ALT(SGPT)-8 AST(SGOT)-9 LD(LDH)-145 ALK 
PHOS-99 TOT BILI-0.2
___ 04:44PM   ALBUMIN-4.3 CALCIUM-9.0 PHOSPHATE-4.9* 
MAGNESIUM-2.5

PERTINENT LABS:
___ 09:28PM   LD(LDH)-149
___ 09:28PM   ALBUMIN-4.4
___ 09:28PM   HAPTOGLOB-223*
___ 09:28PM   HBsAg-NEG HBs Ab-NEG HBc Ab-NEG IgM HAV-NEG
___ 09:28PM   ANCA-NEGATIVE B
___ 09:28PM   ___
___ 09:28PM   C3-119 C4-27
___ 09:28PM   HIV Ab-NEG
___ 09:28PM   HCV Ab-NEG
___ 07:30AM BLOOD Ret Aut-1.5 Abs Ret-0.03
___ 07:50AM BLOOD calTIBC-259* Hapto-210* Ferritn-123 
TRF-199*
___ 07:50AM BLOOD TSH-1.0
___ 07:50AM BLOOD T4-7.6
___ 09:28PM BLOOD ANTI-GBM-PND

DISCHARGE LABS:
___ 08:00AM BLOOD WBC-20.6* RBC-3.11* Hgb-9.2* Hct-28.5* 
MCV-92 MCH-29.6 MCHC-32.3 RDW-13.9 RDWSD-46.5* Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD Calcium-8.9 Phos-4.2 Mg-1.9

PERTINENT IMAGING/STUDIES

___ Renal US
Slightly increased cortical echogenicity compatible with medical 
renal 
disease.  Otherwise no solid renal mass, hydronephrosis, or 
stone. 

___ CXR
There are no prior chest radiographs available for review. 
Lungs are fully expanded and clear.  Cardiac and hilar 
silhouettes and pleural surfaces are normal.  The trachea is 
deviated markedly to the right in the lower neck down to the 
thoracic inlet, and narrowed at least slightly, by what is 
usually an enlarged thyroid.  Clinical correlation advised. 

___ Renal Bx
PATHOLOGIC DIAGNOSIS:
KIDNEY (LEFT), CORE BIOPSY:
CHRONIC ACTIVE INTERSTITIAL NEPHRITIS, SEE NOTE.

___ CT A/P
1. Small left perinephric hematoma status post renal biopsy.
 
Brief Hospital Course:
Ms. ___ is a ___ female with no significant PMH who 
presents with foamy urine for one month and new dyspnea with 
exertion. She was found ot be in acute renal failure with no 
emergent need for dialysis.

ACUTE ISSUES:
=============
#Acute renal failure
#Chronic tubulointerstitial nephritis
#Anion gap metabolic acidosis: 
Ms. ___ had an admission Creatinine of 6.3, although it is 
unclear what her prior baseline creatinine is. Her anion gap was 
18. She had no evidence of hypervolemia or uremia on exam. Her 
complement levels were normal, ___, ANCA, HBV/HC serologies, and 
HIV were all negative. She had a renal biopsy performed on 
___ which showed chronic interstitial nephritis with 
significant tubular damage. It was thought that her renal 
disease is likely related to a drug or medication she has taken 
in the past, although the specific medication is unclear 
(patient reported history of taking probiotic omega-3-fatty acid 
supplements); she was advised to stop taking all supplements. 
Unfortunately, the evidence is not clear whether steroid therapy 
can help renal function. After careful discussion with the 
patient, the nephrology team recommended starting a trial of 
steroids for two weeks and assess for improvement in kidney 
function. The patient was started on sodium bicarbonate as well 
as daily vitamin D. She was also recommended a low sodium and 
potassium diet. An application was faxed to the Transplant 
Institute in ___ for kidney transplant referral. There was no 
emergent need for dialysis at this time. Discharge BUN 36, Cr 
4.8, anion gap 23. Her anti-GBM antibody was pending at 
discharge.

#Anemia: Patient had normocytic anemia of uncertain chronicity 
but consistent with chronic disease. She likely has decreased 
EPO production with her renal disease. She did have an acute 
drop likely secondary to hematoma in left perinephric region, 
which is expected after renal biopsy. This hematoma was stable 
as seen on CT ___, and she was transfused one unit. Of note, 
she had an elevated UPEP (free kappa chains) but normal SPEP at 
her outside hospital prior to transfer, so consider any 
hematologic abnormalities as an outpatient. Please check a CBC 
at her follow up appointment. Discharge Hgb 9.2, Hct 28.5.

#Leukocytosis: Patient presented with WBC 14.5 but was 
clinically without evidence of infection. No source was 
identified. It could be related to systemic disease causing 
kidney injury, although the patient does have a history of 
mysterious lymphadenopathy. On CXR, a large mediastinal mass 
with tracheal deviation (no respiratory compromise) was noted. 
Note that she had an elevated UPEP at OSH (see Atrius records), 
so consider working up hematologic abnormalities and consider a 
referral to hematology if indicated. Discharge WBC 20.6.

# Enlarged neck mass with deviated trachea:
# Posterior cervical lymphadenopathy: As above, patient had an 
enlarged mediastinal mass on CXR. She also had lymphadenopathy 
on exam. Her thyroid labs were normal. Consider a lymph node 
biopsy as outpatient in setting of
leukocytosis.

TRANSITIONAL ISSUES:

NEW MEDICATIONS
- Prednisone
- Sodium bicarbonate
- Ranitidine 
- Vitamin D

STOPPED MEDICATIONS
- Stop all supplements including omega-3-fatty acids and 
probiotics

[ ] Complete 2-week course of prednisone (complete ___
[ ] Patient discharged with H2 blocker for stress ulcer 
prophylaxis while on steroids
[ ] Patient should avoid NSAIDs and other nephrotoxic agents
[ ] Patient has no emergent need for dialysis at this time.
[ ] Anti-GBM antibody was pending at discharge
[ ] Please check CBC and Chem7 at discharge. Of note, she had 
leukocytosis (WBC 20.6), anemia (Hgb 9.2, Hct 28.5, received 1U 
PRBC on ___, elevated BUN (35), elevated Cr (4.8), and anion 
gap (23).
[ ] Recommend hematologic workup for leukocytosis, anemia, and 
lymphadenopathy which appears chronic, especially in the setting 
of elevated UPEP (although normal SPEP)
[ ] Recommend CT chest to evaluate for mediastinal mass 
[ ] An application was faxed to the Transplant Institute in 
___ for kidney transplant referral

#CODE: Full (presumed) 
#CONTACT: ___ (friend) - ___
 
Medications on Admission:
No prescribed medications

OTC:
Omega 3 acid supplement
Probiotic
 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY Duration: 14 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  Sodium Bicarbonate 650 mg PO DAILY 
RX *sodium bicarbonate 650 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
4.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 2 tablet(s) by mouth 
once a day Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- Acute Renal Failure 
- Chronic tubulointerstitial nephritis
- Chronic Lymphadenopathy

Secondary diagnosis:
- Normocytic anemia
- Leukocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Why were you admitted?
- You were admitted for shortness of breath with activity
- At your PCP's office, you were found to have elevated 
creatinine, which is a measure of kidney damage
- We think your kidney disease is related to a medication you 
may have taken in the past. Although we are not sure what 
medication this is, please stop all supplements including any 
fatty acids as well as probiotics

What happened in the hospital?
- You received a renal biopsy on ___ which showed something 
called "chronic tubulointerstitial nephritis." 
- In other words, there is swelling and inflammation in the 
tubes of your kidneys.
- After the biopsy, your blood levels were low, so we gave you a 
transfusion
- You also received a scan of your kidneys to check for any 
hematoma (pooling of blood) after your biopsy. There is a small 
pool of blood around your biopsy site but it is stable and does 
not need to be followed

What should you do when you leave the hospital?
- You have been started on a 2 week course of steroids. This may 
help your kidney function, but your kidneys are unlikely to 
recover from this. Therefore, we have also started the process 
for a kidney transplant waitlist.
- It is important for you to follow up with your doctors as 
below. We would especially like your doctor to follow up on your 
enlarged lymph nodes, so please remind your PCP at your next 
appointment to see if anything needs to be done.
- If you develop any bleeding, back pain, confusion, dizziness, 
or any fainting, please call your doctor immediately.

It was a pleasure taking care of you! We wish you the best.
- Your ___ Team
 
Followup Instructions:
___